US08211927B2
4-Chloro-5-(4-chlorophenyl)-N-((1R,3S)-3-hydroxycyclopentyl)isoxazole-3-carboxamide
Using 4-chloro-5-(4-chlorophenyl)isoxazole-3-carboxylic acid, synthesised according to Example 1, in place of 5-(4-chlorophenyl)-4-methylisoxazole-3-carboxylic acid.

reactant | 4-chloro-5-(4-chlorophenyl)isoxazole-3-carboxylic acid | ClC=1C(=NOC1C1=CC=C(C=C1)Cl)C(=O)O | C10H5Cl2NO3
reactant | 5-(4-chlorophenyl)-4-methylisoxazole-3-carboxylic acid | ClC1=CC=C(C=C1)C1=C(C(=NO1)C(=O)O)C | C11H8ClNO3
product | 4-Chloro-5-(4-chlorophenyl)-N-((1R,3S)-3-hydroxycyclopentyl)isoxazole-3-carboxamide | ClC=1C(=NOC1C1=CC=C(C=C1)Cl)C(=O)N[C@H]1C[C@H](CC1)O | C15H14Cl2N2O3
